US06720324B2
Trifluoroacetic acid (1 mL) was added to tert-butoxy{[3-(4-methyl-4-phenyl-1-piperdinyl)propyl]-amino}methanol (0.500 g, 1.51 mmol) in dichloromethane (5 mL) and the solution was stirred at room temperature for 1 h. The solution was concentrated, neutralized with 10% KOH solution and extracted with dichloromethane (25 mL). The organic layer was dried over sodium sulfate, filtered and concentrated, giving 0.340 g (98%) of 3-(4-methyl-4-phenyl-1-piperdinyl)propylamine which was used without further purification in the subsequent step.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butoxy{[3-(4-methyl-4-phenyl-1-piperdinyl)propyl]-amino}methanol | 1.51 mmol, 0.500 g | C(C)(C)(C)OC(O)NCCCN1CCC(CC1)(C1=CC=CC=C1)C | C20H34N2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(4-methyl-4-phenyl-1-piperdinyl)propylamine | 0.340 g, 98% | CC1(CCN(CC1)CCCN)C1=CC=CC=C1 | C15H24N2
